US05428035
1,3-dihydro-1-(4-morpholinyl)-3,3-bis(4-pyridinyl methyl)-2H-indol-2-one
A mixture of 1,3-dihydro-1-(4-morpholinyl)-2H-indol-2-one (0.5 g, 2.3 mmole), 4-picolyl chloride hydrochloride (0.83 g, 5.0 mmole), benzyltriethylammonium chloride (0.053 g, 0.23 mmole) in toluene (5 ml) and 50% sodium hydroxide solution (3.6 ml) were heated at 70° C. for three hours. The reaction was cooled to room temperature and poured into water/chloroform (30 ml each). The layers were separated and the aqueous layer extracted with additional chloroform (3×20 ml). The combined organic layers were washed with water (50 ml), brine (50 ml), dried over magnesium sulfate, filtered and concentrated on a rotary evaporator. The residue was chromatographed on silica gel using methanol/chloroform (7%), and recrystallized from chloroform/hexane to afford 0.81 g (88%) of the desired product as a solid, m.p. 200°-203° C.; IR (KBr): 1711 cm-1 ; 1H NMR (CDCl3, TMS) :δ8.26 (dd, J=4.4, 1.5Hz, 2H), 7.37 (m, 1H), dd, J =7.7, 1.4Hz, 2H), 6.80 (dd, J=4.4, 1.5Hz, 4H), 6.61 (dd, J=7.7, 1.1 Hz, 1H), 3.77 (dd, J=5.5, 1.1Hz, 2H), 3.59 (m, 2H), 3.43 (dd, J=11.4 Hz, 1.5Hz, 2H), 3.37 (d, J=12.8Hz, 2H), 3.14 (d, J=12.8Hz,2H), 2.01 (br.d, J =10.2Hz, 2H); mass spec. m/e 401 (M+H, 100%); Anal. (C24H24N4O2): C,H,N.

reactant | 1,3-dihydro-1-(4-morpholinyl)-2H-indol-2-one | 2.3 mmole, 0.5 g | N1(CCOCC1)N1C(CC2=CC=CC=C12)=O | C12H14N2O2
reactant | 4-picolyl chloride hydrochloride | 5.0 mmole, 0.83 g | Cl.N1=CC=C(C=C1)CCl
reactant | water chloroform | 30 ml | O.C(Cl)(Cl)Cl
catalyst | benzyltriethylammonium chloride | 0.23 mmole, 0.053 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 3.6 ml | [OH-].[Na+]
product | 1,3-dihydro-1-(4-morpholinyl)-3,3-bis(4-pyridinyl methyl)-2H-indol-2-one | 0.81 g, 88% | N1(CCOCC1)N1C(C(C2=CC=CC=C12)(CC1=CC=NC=C1)CC1=CC=NC=C1)=O | C24H24N4O2
